US05180742
Toluene (10 ml) was added to 1.20 g (3.68 mmole) of 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-phenylhexanol and 0.90 g (3.68×3 mmole) of potassium cyanate, followed by stirring at room temperature, and 1.38 g (3.68×3.3 mmole) of trifluoroacetic acid was added to the mixture over the 5-minutes period. 5 Minutes later, the reaction temperature was raised to 40° C., and stirring was effected at 35° to 40° C. for 3 hours. After water was added, the insoluble matter was filtered out, and isopropyl ether was added to the filtrate to effect extraction. The organic layer was separated out, washed with aqueous sodium chloride solution, dried (magnesium sulfate) and evaporated. The residue was chromatographed on a silica gel column to elute with isopropyl ether to give 0.79 g (58%, recrystallized from isopropyl ether) of 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-phenylhexyl carbamate. Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound NO. 59 was prepared.

reactant | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-phenylhexanol | 3.68 mmole, 1.20 g | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCO)C1=CC=CC=C1 | C21H26O3
reactant | potassium cyanate | 3 mmole, 0.90 g | [O-]C#N.[K+]
reactant | trifluoroacetic acid | 3.3 mmole, 1.38 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)-6-phenylhexyl carbamate | 0.79 g, 58% | C(N)(OCCCCCC(C1=CC=CC=C1)C=1C(C(=C(C(C1C)=O)C)C)=O)=O | C22H27NO4
